Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Minoxidil
 
Attending: ___
 
___ Complaint:
Fever, cough, Nausea and vomiting
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ ___ renal and pancreatic transplant for DM1, CAD ___ stent, 
presents with 2 days of nasal congestion, nonproductive cough, 
fever, and sore throat.  Yesterday he had five episodes of 
nausea and vomiting after trying to aggressively rehydrate with 
PO fluids.  Today, he had a fever of 102 at home and came to the 
ED.  Of note on his last admission for fevers and vomiting, he 
developed a ___ tear. 
.
Denies blood in vomit, chest pain/pressure, headache, abdominal 
pain, diarrhea, dysuria.
.
In the ED, he was febrile to 101.  Initial labs significant for 
no leukocytosis and potassium of 2.5.  CXR showing right lower 
lobe consolidation.  EKG with new lateral ST depressions, and 
cardiology was consulted, recommended cycling enzymes and 
treatment for NSTEMI (plavix, heparin) if positive.  The first 
set of enzymes were negative.  He was started on levaquin for 
pneumonia, ASA and metoprolol for EKG changes, zofran for 
nausea, and tylenol for fevers. 
 
Past Medical History:
1. Diabetes Mellitus, Type I - since age ___
2. ESRD ___ CRT ___ - post-op course complicated by delayed 
graft function and hydronephrosis ___ ureteral stent and 
percutaneous nephrostomy in ___.  Now with renal insufficiency 
with baseline creatinine 2.0.
3. Pancreas transplant ___, rejected ___
4. h/o Partial SBO - treated conservatively
5. Hypertension
6. Coronary Artery Disease ___ stent of Ramus Intermedius in 
___
7. Paroxysmal Atrial Fibrillation
8. ___ ventral hernia repair with mesh in ___
9. Orthostatic hypotension
___ malleolar fracture ___ - treated with Keflex and 
Vicodin. Ortho evaluation ___ - no infection, no ulcer.
.

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
vitals: 99.9 164/69 59 18 98%2L
Gen: NAD, pleasant
HEENT: EOMI, OP clear, mmm dry
CV: RRR nl s1, s2, II/VI systolic ejection murmur heard best 
over left upper sternal border. neck flat.
Pulm: faint crackles on right lower lung.
Abd: +BS, soft, nontender, nondistended, midline abdominal wall 
hernia palpable, left transplanted kidney palpable in pelvis.
Ext: left hand with mild swelling. no ankle edema
Neuro: grossly intact. 

 
Pertinent Results:
___ 09:10AM BLOOD WBC-6.4 RBC-3.19* Hgb-9.6* Hct-27.4* 
MCV-86 MCH-30.0 MCHC-34.8 RDW-13.8 Plt ___
___ 06:40AM BLOOD WBC-7.3 RBC-3.70* Hgb-11.2* Hct-32.4* 
MCV-87 MCH-30.2 MCHC-34.5 RDW-13.7 Plt ___
___ 09:10AM BLOOD Neuts-85.1* Lymphs-8.5* Monos-5.4 Eos-0.7 
Baso-0.3
___ 09:10AM BLOOD ___ PTT-30.1 ___
___ 09:10AM BLOOD Glucose-73 UreaN-26* Creat-1.8* Na-144 
K-2.5* Cl-116* HCO3-20* AnGap-11
___ 06:40AM BLOOD Glucose-61* UreaN-25* Creat-2.2* Na-139 
K-3.6 Cl-105 HCO3-23 AnGap-15
___ 09:10AM BLOOD LD(LDH)-224 CK(CPK)-185*
___ 08:47PM BLOOD CK(CPK)-274*
___ 09:10AM BLOOD cTropnT-0.09*
___ 08:47PM BLOOD CK-MB-4 cTropnT-0.12*
___ 06:40AM BLOOD CK-MB-3 cTropnT-0.10*
___ 09:19AM BLOOD Lactate-0.8
.
___ 02:35PM URINE Color-Straw Appear-Clear Sp ___
___ 02:35PM URINE Blood-SM Nitrite-NEG Protein-500 
Glucose-TR Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 02:35PM URINE ___ Bacteri-RARE Yeast-NONE 
Epi-0
.
Blood cultures ___: pending
Urine culture ___: pending
.
EKG: ST-segment elevations in V1-V2 and depressions in V4-6, 
consistent with changes seen on several previous admissions. 
.
Imaging: 
___ Portable CXR:  There is an infiltrate at the right lung 
base, likely representing pneumonic consolidation. 
Cardiomediastinal silhouette is stable. Left lung is clear. 
CONCLUSION: Pneumonic consolidation in the right lower lobe, 
please ensure followup till clearance. 

 
Brief Hospital Course:
___ ___ renal and pancreatic transplant for DM1 with 2 days of 
cough, fever, sore throat, N/V, with right lower lobe 
infiltrate. 
.
1. Pneumonia: Patient presents with sore throat, cough, and temp 
101. Vomited prior to admission in the setting of aggressively 
orally rehydrating and strong coughing. CXR shows infiltrate at 
the right lung base, likely representing pneumonic 
consolidation.  He is being treated with levofloxacin 500mg PO 
qday for 10 day course. Tylenol prn. His fevers trended down. 
.
2. EKG Changes: ST elevations in V1-2 and depressions in V4-6, 
no chest pain. EKG changes consistent with several previous EKGs 
on past admissions. Cardiology was consulted. Given aspirin 
325mg and metoprolol 25mg. Enzymes ruled out infarction. He was 
monitored on telemetry overnight with no events. Repeat EKG on 
morning of discharge with no further changes. 
. 
3. Concern for hypokalemia: K of 2.5 on admission, when 
rechecked due to concern for lab error it was 3.7.  No repletion 
given.
.
4. Anemia: Low hct on presentation (27) also likely due to lab 
error, back to baseline of 33 when rechecked last night.  Stable 
this morning. Iron studies normal in ___. Anemia probably due 
to chronic disease.
.
5. Diabetes: On glargine 15 units q a.m. and 10 units q p.m at 
home.  His blood sugars were 60-100 due to poor PO, so basal 
levels decreased to 10u qpm and 5u qpm while inpatient. Sliding 
scale. Tolerance for POs inproved at discharge. 
.
6. HTN: BPs in the 170s in the setting of not getting his 
evening dose of BP meds on admission. On telemetry overnight. 
Got morning doses of amlodipine, clonidine, lisinopril, 
metoprolol.  Blood pressures continued to stay in 160-170 range. 
Decreased fludrocortisone from 0.1mg BID to qday.  
.
7. Transplant history: Renal transplant ___. Post-op course 
complicated by delayed graft function and hydronephrosis ___ 
ureteral stent and percutaneous nephrostomy in ___. Now with 
renal insufficiency, with baseline creatinine 2.4 (cr 1.8 on 
presentation, possible lab error as was 2.3 later last night in 
the setting of rehydration and no other signs of acute renal 
injury). On cyclosporine, prednisone, Mycophenolate mofetil 
immunosuppression and bactrim prophylaxis. Renal transplant 
service was informed of his admission.  Furosemide was held 
overnight while rehydrating. 

 
Medications on Admission:
- Amlodipine 10mg PO qday
- cinacalcet 30mg PO qday
- Clonidine 0.2mg patch qweek
- Cyclosporine (neoral) 100mg PO BID
- Fludrocortisone 0.1mg PO BID
- Furosemide 20mg PO BID
- Insulin Glargine 100 u/ml solution
- Insulin lispro 100 u/ml solution TID
- Lisinopril 20mg PO qday
- Metoclopramide 10mg PO BID PRN nausea
- Metoprolol 25mg PO BID
- Mycophenolate mofetil 500mg PO BID
- Pantoprazole 40mg PO BID
- Pravastatin 80mg PO qday
- Prednisone 5mg PO qday
- Bactrim 400-80mg PO qMWF
- ASA 81mg PO qday
- Calcium and Vitamin D 600-1500mg PO qday

 
Discharge Medications:
1. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

2. Cinacalcet 30 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Clonidine 0.2 mg/24 hr Patch Weekly Sig: One (1) Patch Weekly 
Transdermal QFRI (every ___.  
4. Fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO once a 
day.  
5. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO twice a day.  
6. Metoclopramide 10 mg Tablet Sig: One (1) Tablet PO BID prn as 
needed for nausea.  
7. Mycophenolate Mofetil 500 mg Tablet Sig: One (1) Tablet PO 
BID (2 times a day).  
8. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO twice a day.  
9. Pravastatin 80 mg Tablet Sig: One (1) Tablet PO once a day.  
10. Prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
11. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO qMWF.  
12. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
13. Calcium-Cholecalciferol (D3) 600 mg(1,500mg) -200 unit 
Tablet Sig: One (1) Tablet PO once a day.  
14. Levofloxacin 500 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily) for 8 days.
Disp:*8 Tablet(s)* Refills:*0*
15. Insulin Glargine 100 unit/mL Solution Sig: Two (2) bottles 
Subcutaneous twice a day: use as directed to control blood sugar 
at bedtime (Per ___ doctor) .  
16. Furosemide 20 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
17. Humalog 100 unit/mL Solution Sig: Two (2) bottle 
Subcutaneous three times a day: use as directed to control blood 
sugar three times a day .  
18. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO 
twice a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pneumonia

 
Discharge Condition:
stable, improved

 
Discharge Instructions:
You were admitted to the hospital with fever, cough, sore 
throat, nausea and vomiting. Your chest xray showed that you 
have pneumonia, which is being treated with a ten day course of 
levofloxacin antibiotic.  You had no chest pain, abnormalities 
on your EKG were consistent with changes on your past EKGs, and 
cardiac enzymes showed no evidence of acute cardiac disease. 
Your creatinine and electrolytes were at your baseline.
.
Please take all your medications. New medications include 
levofloxacin 500mg once daily for 8 more days.  We have 
decreased your fludricort to once daily; please follow your 
blood pressure readings at home and discuss this change with 
your doctor at your next appointment.  
.
Please follow up with your primary care doctor and renal 
transplant doctor as indicated below. 
. 
Return to the hospital if you have shortness of breath, fevers, 
chest pain, or any other concerning symptoms. 
 
Followup Instructions:
___